US04652563
In an alternative method, 3-[4-(2-(cyclopropylmethoxy)ethyl)phenoxy]-2-hydroxypropylamine (1.33 g), (see Example 5 (i) in ethanol (20 ml) was stirred at room temperature whilst a solution of benzaldehyde (1.06 g) in ethanol (20 ml) was added. The mixture was poured on to a slurry of 5% palladium on charcoal (0.5 g) in ethanol (5 ml) and hydrogenated at 344 kPa (50 p.s.i.) for 10 minutes. The mixture was filtered through diatomaceous earth and the filtrate evaporated to give a clear oil which crystallised on standing to give N-benzyl-3-[4-[2-(cyclopropylmethoxy)ethyl]phenoxy]-2-hydroxypropylamine, in quantitative yield, identical to an authentic sample by chromatography and a nuclear magnetic resonance spectrum.

reactant | 3-[4-(2-(cyclopropylmethoxy)ethyl)phenoxy]-2-hydroxypropylamine | 1.33 g | C1(CC1)COCCC1=CC=C(OCC(CN)O)C=C1 | C15H23NO3
reactant | benzaldehyde | 1.06 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-benzyl-3-[4-[2-(cyclopropylmethoxy)ethyl]phenoxy]-2-hydroxypropylamine | quantitative yield | C(C1=CC=CC=C1)NCC(COC1=CC=C(C=C1)CCOCC1CC1)O | C22H29NO3
